US04000143
Reaction of ethyl propiolate with 2-(o-aminophenethyl)-1-methylpiperidine according to the procedure of Example 115 affords 2'-[2-(1-methyl-2-piperidyl)ethyl]phenylpropiolanilide, m.p. 104.5° - 106.5° C. (corr.), from ethyl acetate.

reactant | ethyl propiolate | C(C#C)(=O)OCC | C5H6O2
reactant | 2-(o-aminophenethyl)-1-methylpiperidine | NC1=C(CCC2N(CCCC2)C)C=CC=C1 | C14H22N2
product | 2'-[2-(1-methyl-2-piperidyl)ethyl]phenylpropiolanilide | CN1C(CCCC1)CCC1=C(NC(C#CC2=CC=CC=C2)=O)C=CC=C1 | C23H26N2O
